ROM raw-write replay channel 1; bus.csv
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/tools/spice/models.lib
Vrail rail 0 86
Vcmd cmd 0 PWL(
+ 0.000000000000 0.00
+ 0.199999980000 0.00
+ 0.200000000000 4.50
+ 0.202064480000 4.50
+ 0.202064500000 0.00
+ 0.208192480000 0.00
+ 0.208192500000 4.50
+ 0.210254980000 4.50
+ 0.210255000000 0.00
+ 0.216384480000 0.00
+ 0.216384500000 4.50
+ 0.219311480000 4.50
+ 0.219311500000 0.00
+ 0.225439980000 0.00
+ 0.225440000000 4.50
+ 0.227502980000 4.50
+ 0.227503000000 0.00
+ 0.233631980000 0.00
+ 0.233632000000 4.50
+ 0.235694980000 4.50
+ 0.235695000000 0.00
+ 0.241823480000 0.00
+ 0.241823500000 4.50
+ 0.243886480000 4.50
+ 0.243886500000 0.00
+ 0.250014480000 0.00
+ 0.250014500000 4.50
+ 0.252078480000 4.50
+ 0.252078500000 0.00
+ 0.257357480000 0.00
+ 0.257357500000 4.50
+ 0.260269980000 4.50
+ 0.260270000000 0.00
+ 0.265535980000 0.00
+ 0.265536000000 4.50
+ 0.268462980000 4.50
+ 0.268463000000 0.00
+ 0.273728980000 0.00
+ 0.273729000000 4.50
+ 0.277839980000 4.50
+ 0.277840000000 0.00
+ 0.282783980000 0.00
+ 0.282784000000 4.50
+ 0.286030980000 4.50
+ 0.286031000000 0.00
+ 0.290974980000 0.00
+ 0.290975000000 4.50
+ 0.294223480000 4.50
+ 0.294223500000 0.00
+ 0.299167480000 0.00
+ 0.299167500000 4.50
+ 0.302416480000 4.50
+ 0.302416500000 0.00
+ 0.307358480000 0.00
+ 0.307358500000 4.50
+ 0.310607480000 4.50
+ 0.310607500000 0.00
+ 0.315550980000 0.00
+ 0.315551000000 4.50
+ 0.318812980000 4.50
+ 0.318813000000 0.00
+ 0.322879480000 0.00
+ 0.322879500000 4.50
+ 0.326990980000 4.50
+ 0.326991000000 0.00
+ 0.331072480000 0.00
+ 0.331072500000 4.50
+ 0.336173980000 4.50
+ 0.336174000000 0.00
+ 0.340126480000 0.00
+ 0.340126500000 4.50
+ 0.344239480000 4.50
+ 0.344239500000 0.00
+ 0.348318980000 0.00
+ 0.348319000000 4.50
+ 0.352501480000 4.50
+ 0.352501500000 0.00
+ 0.356510980000 0.00
+ 0.356511000000 4.50
+ 0.360622480000 4.50
+ 0.360622500000 0.00
+ 0.364702980000 0.00
+ 0.364703000000 4.50
+ 0.368884980000 4.50
+ 0.368885000000 0.00
+ 0.372894980000 0.00
+ 0.372895000000 4.50
+ 0.377007480000 4.50
+ 0.377007500000 0.00
+ 0.387238980000 0.00
+ 0.387239000000 4.50
+ 0.393389980000 4.50
+ 0.393390000000 0.00
+ 0.395422480000 0.00
+ 0.395422500000 4.50
+ 0.401709980000 4.50
+ 0.401710000000 0.00
+ 0.403620980000 0.00
+ 0.403621000000 4.50
+ 0.410958980000 4.50
+ 0.410959000000 0.00
+ 0.412991480000 0.00
+ 0.412991500000 4.50
+ 0.419150980000 4.50
+ 0.419151000000 0.00
+ 0.421184980000 0.00
+ 0.421185000000 4.50
+ 0.427344480000 4.50
+ 0.427344500000 0.00
+ 0.429376980000 0.00
+ 0.429377000000 4.50
+ 0.435535480000 4.50
+ 0.435535500000 0.00
+ 0.437567980000 0.00
+ 0.437568000000 4.50
+ 0.503114480000 4.50
+ 0.503114500000 0.00
+ 7.891156813000 0.00
+ 7.891156833000 4.50
+ 7.894405313000 4.50
+ 7.894405333000 0.00
+ 7.900532813000 0.00
+ 7.900532833000 4.50
+ 7.902596313000 4.50
+ 7.902596333000 0.00
+ 7.908724813000 0.00
+ 7.908724833000 4.50
+ 7.910791313000 4.50
+ 7.910791333000 0.00
+ 7.916917313000 0.00
+ 7.916917333000 4.50
+ 7.918980313000 4.50
+ 7.918980333000 0.00
+ 7.925109313000 0.00
+ 7.925109333000 4.50
+ 7.927173813000 4.50
+ 7.927173833000 0.00
+ 7.933301813000 0.00
+ 7.933301833000 4.50
+ 7.935364313000 4.50
+ 7.935364333000 0.00
+ 7.941495313000 0.00
+ 7.941495333000 4.50
+ 7.943557313000 4.50
+ 7.943557333000 0.00
+ 7.948512813000 0.00
+ 7.948512833000 4.50
+ 7.952617813000 4.50
+ 7.952617833000 0.00
+ 7.957878313000 0.00
+ 7.957878333000 4.50
+ 7.960804313000 4.50
+ 7.960804333000 0.00
+ 7.966075813000 0.00
+ 7.966075833000 4.50
+ 7.969002313000 4.50
+ 7.969002333000 0.00
+ 7.974260813000 0.00
+ 7.974260833000 4.50
+ 7.977191313000 4.50
+ 7.977191333000 0.00
+ 7.982455813000 0.00
+ 7.982455833000 4.50
+ 7.985388813000 4.50
+ 7.985388833000 0.00
+ 7.990646313000 0.00
+ 7.990646333000 4.50
+ 7.993573313000 4.50
+ 7.993573333000 0.00
+ 7.998837313000 0.00
+ 7.998837333000 4.50
+ 8.001770313000 4.50
+ 8.001770333000 0.00
+ 8.007029813000 0.00
+ 8.007029833000 4.50
+ 8.011140813000 4.50
+ 8.011140833000 0.00
+ 8.015222313000 0.00
+ 8.015222333000 4.50
+ 8.019333813000 4.50
+ 8.019333833000 0.00
+ 8.023412813000 0.00
+ 8.023412833000 4.50
+ 8.027524813000 4.50
+ 8.027524833000 0.00
+ 8.031605813000 0.00
+ 8.031605833000 4.50
+ 8.035716813000 4.50
+ 8.035716833000 0.00
+ 8.039797313000 0.00
+ 8.039797333000 4.50
+ 8.043908313000 4.50
+ 8.043908333000 0.00
+ 8.047991313000 0.00
+ 8.047991333000 4.50
+ 8.052100813000 4.50
+ 8.052100833000 0.00
+ 8.056182813000 0.00
+ 8.056182833000 4.50
+ 8.060292313000 4.50
+ 8.060292333000 0.00
+ 8.064373813000 0.00
+ 8.064373833000 4.50
+ 8.069347313000 4.50
+ 8.069347333000 0.00
+ 8.071392813000 0.00
+ 8.071392833000 4.50
+ 8.077539313000 4.50
+ 8.077539333000 0.00
+ 8.079573313000 0.00
+ 8.079573333000 4.50
+ 8.085732813000 4.50
+ 8.085732833000 0.00
+ 8.087763813000 0.00
+ 8.087763833000 4.50
+ 8.093924313000 4.50
+ 8.093924333000 0.00
+ 8.095955813000 0.00
+ 8.095955833000 4.50
+ 8.102116313000 4.50
+ 8.102116333000 0.00
+ 8.104151313000 0.00
+ 8.104151333000 4.50
+ 8.110307813000 4.50
+ 8.110307833000 0.00
+ 8.112340313000 0.00
+ 8.112340333000 4.50
+ 8.118500813000 4.50
+ 8.118500833000 0.00
+ 8.120533313000 0.00
+ 8.120533333000 4.50
+ 8.127877313000 4.50
+ 8.127877333000 0.00
+ 8.129909813000 0.00
+ 8.129909833000 4.50
+ 8.194275813000 4.50
+ 8.194275833000 0.00
+ 10.200000000000 0.00
+ 10.200000020000 0.00
+ 10.230000000000 0.00
+ )
Rout cmd gateinput 40
Rg gateinput gate 100
Rpd gate 0 10k
Vsense drain drainq 0
XQ drainq gate 0 IPD90N10S4L06
Lcoil drain coil 0.012
Rcoil coil rail 3.7800000000000002
Vdiode drain diode 0
Dfly diode rail DS3M
.save v(drainq) v(gate) i(Vsense) i(Vdiode) i(Lcoil) @dfly[capcur]
.options reltol=0.002 method=gear maxord=2 klu itl4=100
.tran 100u 10.230000000 0 1.25u
.control
set numdgt=12
run
let pfet=v(drainq)*i(Vsense)
* Separate carrier conduction from the diode stored-charge current.
* Rectifying numerical capacitor ringing otherwise biases the forward average.
* Keep the original terminal-current metric for independent review.
let id_terminal=(abs(i(Vdiode))+i(Vdiode))/2
let diode_conduction=i(Vdiode)-@dfly[capcur]
let id=(abs(diode_conduction)+diode_conduction)/2
let icoil=abs(i(Lcoil))
let sim_end=time[length(time)-1]
print sim_end
meas tran vds_peak MAX v(drainq)
meas tran vgs_peak MAX v(gate)
meas tran p_avg AVG pfet from=0.200000000 to=10.200000000
meas tran id_avg AVG id from=0.200000000 to=10.200000000
meas tran id_terminal_avg AVG id_terminal from=0.200000000 to=10.200000000
meas tran i_peak MAX i(Vsense)
meas tran coil_peak MAX icoil
let tj_repeating=50+p_avg*62
print tj_repeating
.endc
.end
